US08022062B2
4-Aminomethyl-N-cycloheptyl-2-fluoro-benzamide:
Add 4-cyano-N-cycloheptyl-2-fluoro-benzamide (1.4 g, 5.4 mmol), 10% Pd/C (Degussa type E101, 415 mg), ethanol (40 mL), water (15 mL) and acetic acid (1.8 mL) to a pressure vessel. Pressurize the vessel to 55 psi with hydrogen, and stir the mixture for 0.5 h (monitor the reaction by TLC). Filter the mixture through Celite® and wash the cake with warm ethanol followed by dichloromethane under a nitrogen atmosphere. Concentrate the filtrate in vacuo to obtain the product as the acetic acid salt. Use SCX chromatography to obtain the title compound (1.36 g, 95%). GC-MS m/z: 264 (M+).

reactant | 4-cyano-N-cycloheptyl-2-fluoro-benzamide | 5.4 mmol, 1.4 g | C(#N)C1=CC(=C(C(=O)NC2CCCCCC2)C=C1)F | C15H17FN2O
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | water | 15 mL | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 415 mg | [Pd] | Pd
solvent | acetic acid | 1.8 mL | C(C)(=O)O | C2H4O2
product | 4-Aminomethyl-N-cycloheptyl-2-fluoro-benzamide | 1.36 g, 95% | NCC1=CC(=C(C(=O)NC2CCCCCC2)C=C1)F | C15H21FN2O
